### PR TITLE
[Merged by Bors] - feat(RingTheory): invertible modules and Picard group

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PicardGroup.lean [hunk 1]
```diff
@@ -0,0 +1,425 @@
...
+  __ := LinearMap.rTensorHom M
+  invFun := rTensorInv P Q e
+  left_inv := rTensorInv_leftInverse P Q e
+  right_inv _ := rTensorInv_injective P Q e <| by
+    rw [LinearMap.toFun_eq_coe, rTensorInv_leftInverse]
+
+open LinearMap in
+/-- If there is an `R`-isomorphism between `M ⊗[R] N` and `R`, where `M` is not assumed to be
+the dual of `N`, we show the induced map `M → Nᵛ` is in fact an isomorphism, so `M` is
+isomorphic to `Nᵛ` after all. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
the dual of `N` after all. -/
```

File: Mathlib/RingTheory/PicardGroup.lean [hunk 2]
```diff
@@ -0,0 +1,425 @@
...
+      rTensorHom N ∘ₗ (ringLmapEquivSelf R R M).symm.toLinearMap := by
+    rw [← LinearEquiv.toLinearMap_symm_comp_eq]; ext
+    simp [LinearEquiv.congrLeft, LinearEquiv.congrRight, LinearEquiv.arrowCongrAddEquiv]
+  simpa [this] using (rTensorEquiv R M <| TensorProduct.comm R N M ≪≫ₗ e).bijective
+
+include e
+
+protected theorem right : Module.Invertible R N where
+  bijective := by
+    have : contractLeft R N = .symm (.rTensor N (.ofBijective _ <| bijective_curry e)) ≪≫ₗ e := by
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: Maybe `.ofBijective _ _ : M → Nᵛ` should be extracted as a `def`?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 3]
```diff
@@ -0,0 +1,425 @@
...
+      rw [LinearEquiv.coe_trans, LinearEquiv.eq_comp_toLinearMap_symm]; ext; rfl
+    rw [this]; apply LinearEquiv.bijective
+
+protected theorem left : Module.Invertible R M := .right (TensorProduct.comm R N M ≪≫ₗ e)
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean:152]: Should `left` be called `right`? I don't know if the mathlib convention might clash with the math convention

File: Mathlib/RingTheory/PicardGroup.lean [hunk 4]
```diff
@@ -0,0 +1,425 @@
...
+  .right (M := Dual R M ⊗[R] Dual R N) <| tensorTensorTensorComm .. ≪≫ₗ
+    congr (linearEquiv R M) (linearEquiv R N) ≪≫ₗ TensorProduct.lid R R
+
+private theorem finite_projective : Module.Finite R M ∧ Projective R M := by
+  let N := Dual R M
+  let e : M ⊗[R] N ≃ₗ[R] R := TensorProduct.comm .. ≪≫ₗ linearEquiv R M
+  have ⟨S, hS⟩ := TensorProduct.exists_finset (e.symm 1)
+  let f : (S →₀ N) →ₗ[R] R := Finsupp.lsum R fun i ↦ e.toLinearMap ∘ₗ TensorProduct.mk R M N i.1.1
+  have : Function.Surjective f := by
+    rw [← LinearMap.range_eq_top, eq_top_iff, ← Ideal.span_one, Ideal.span_le, ← Set.singleton_one,
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: might `Ideal.eq_top_iff_one` work here? I don't know if mathlib automatically converts between `Ideal R` and `Submodule R`.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 5]
```diff
@@ -0,0 +1,425 @@
...
+
+instance : Module.Finite R M := (finite_projective R M).1
+instance : Projective R M := (finite_projective R M).2
+example : IsReflexive R M := inferInstance
+
+open Finsupp in
+variable {R M} in
+theorem free_iff_linearEquiv : Free R M ↔ Nonempty (M ≃ₗ[R] R) := by
+  refine ⟨fun _ ↦ ?_, fun ⟨e⟩ ↦ .of_equiv e.symm⟩
+  cases subsingleton_or_nontrivial R
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: Does `nontriviality R using Module.subsingleton R M` work?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 6]
```diff
@@ -0,0 +1,425 @@
...
+theorem finrank_eq_one [StrongRankCondition R] [Free R M] : finrank R M = 1 := by
+  cases subsingleton_or_nontrivial R
+  · rw [← rank_eq_one_iff_finrank_eq_one, rank_subsingleton]
+  · rw [(free_iff_linearEquiv.mp ‹_›).some.finrank_eq, finrank_self]
+
+theorem rank_eq_one [StrongRankCondition R] [Free R M] : Module.rank R M = 1 :=
+  rank_eq_one_iff_finrank_eq_one.mpr (finrank_eq_one R M)
+
+open TensorProduct (comm lid) in
+theorem toModuleEnd_bijective : Function.Bijective (toModuleEnd R (S := R) M) := by
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean:258]: Maybe we can promote this to an `AlgEquiv`?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 7]
```diff
@@ -0,0 +1,425 @@
...
+
+variable (R : Type u) [CommRing R]
+
+instance (M : (Skeleton <| ModuleCat.{u} R)ˣ) : Module.Invertible R M :=
+  .right (Quotient.eq.mp M.inv_mul).some.toLinearEquiv
+
+instance : Small.{u} (Skeleton <| ModuleCat.{u} R)ˣ :=
+  let sf := Σ n, Submodule R (Fin n → R)
+  have {M N : sf} : M = N → (_ ⧸ M.2) ≃ₗ[R] _ ⧸ N.2 := by rintro rfl; exact .refl ..
+  let f (M : (Skeleton <| ModuleCat.{u} R)ˣ) : sf :=
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: This feels duplicated a bit with the `repr` defined in the other file.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 8]
```diff
@@ -0,0 +1,425 @@
...
+    ⟨_, LinearMap.ker (Finite.exists_fin' R M).choose_spec.choose⟩
+  small_of_injective (f := f) fun M N eq ↦ Units.ext <| Quotient.out_equiv_out.mp
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean:328]: This seems to be [`CategoryTheory.Functor.eq_of_iso`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Skeletal.html#CategoryTheory.Functor.eq_of_iso)

File: Mathlib/RingTheory/PicardGroup.lean [hunk 9]
```diff
@@ -0,0 +1,425 @@
...
+    ⟨((Finite.reprEquiv R M).symm ≪≫ₗ this eq ≪≫ₗ Finite.reprEquiv R N).toModuleIso⟩
+
+/-- The Picard group of a commutative ring R consists of the invertible R-modules,
+ up to isomorphism. -/
+abbrev CommRing.Pic (R : Type u) [CommRing R] : Type u :=
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: I don't think this should be `abbrev`.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 10]
```diff
@@ -0,0 +1,425 @@
...
+  Shrink (Skeleton <| ModuleCat.{u} R)ˣ
+
+open CommRing (Pic)
+
+variable {R} in
+/-- A representative of an element in the Picard group. -/
+abbrev CommRing.Pic.AsModule (M : Pic R) : Type u := ((equivShrink _).symm M).val
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: ditto

File: Mathlib/RingTheory/PicardGroup.lean [hunk 11]
```diff
@@ -0,0 +1,425 @@
...
+
+namespace Module.Invertible
+
+variable (M N : Type*) [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+  [Module.Invertible R M] [Module.Invertible R N]
+
+instance : Module.Invertible R (Finite.repr R M) := .congr (Finite.reprEquiv R M).symm
+
+/-- The class of an invertible module in the Picard group. -/
+noncomputable def toPic : Pic R := equivShrink _ <|
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: `Module.Invertible` is a class so you can't use dot notation anyway; why not make this `CommRing.Pic.ofInvertible R M`?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 12]
```diff
@@ -0,0 +1,425 @@
...
+  rw [← toPic_eq_iff, toPic_eq_self]
+
+theorem toPic_eq_toPic_iff : toPic R M = toPic R N ↔ Nonempty (M ≃ₗ[R] N) :=
+  let eN := toPic.linearEquiv R N
+  toPic_eq_iff.trans ⟨fun ⟨e⟩ ↦ ⟨e ≪≫ₗ eN⟩, fun ⟨e⟩ ↦ ⟨e ≪≫ₗ eN.symm⟩⟩
+
+theorem toPic_self : toPic R R = 1 :=
+  congr_arg (equivShrink _) <| Units.ext <| Quotient.sound ⟨(Finite.reprEquiv R R).toModuleIso⟩
+
+theorem toPic_eq_one_iff : toPic R M = 1 ↔ Nonempty (M ≃ₗ[R] R) := by
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: Can we also have a version with `Free` (and then also the backward version with an instance `Free`)? Thanks!

File: Mathlib/RingTheory/PicardGroup.lean [hunk 13]
```diff
@@ -0,0 +1,425 @@
...
+      rw [← one_eq_range, ← I.mul_inv]; exact mul_mem_mul hx (I⁻¹.1.smul_mem _ <| hT <| ha i)
+  let g : (S → R) →ₗ[R] I := .lsum _ _ ℕ fun i ↦ .toSpanSingleton _ _ ⟨b i, hT' <| hb i⟩
+  refine .of_split f g (LinearMap.ext fun x ↦ Subtype.ext ?_)
+  simp only [f, g, lsum_apply, comp_apply, sum_apply, toSpanSingleton_apply, proj_apply, pi_apply]
+  simp_rw [restrict_apply, mulRight_apply, id_apply, coe_sum, coe_smul, Algebra.smul_def,
+    ← Algebra.coe_linearMap, LinearEquiv.coe_toLinearMap, LinearEquiv.ofInjective_symm_apply,
+    mul_assoc, Algebra.coe_linearMap, ← Algebra.smul_def, ← Finset.mul_sum, eq,
+    (Finset.sum_coe_sort ..).trans hr.2, mul_one]
+
+theorem projective_of_isUnit {I : Submodule R A} (hI : IsUnit I) : Projective R I :=
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean:467]: I think if you want the dot notation to work you would want `I` to be an explicit variable.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 14]
```diff
@@ -0,0 +1,425 @@
...
+    mulMap'_surjective _ _⟩
+
+/-- Given an invertible `R`-submodule `I` in an `R`-algebra `A`, the `R`-linear map
+from `I ⊗[R] I⁻¹` to `R` induced by multiplication is an isomorphism. -/
+noncomputable def tensorInvEquiv : I ⊗[R] ↑I⁻¹ ≃ₗ[R] R :=
+  tensorEquivMul S I _ ≪≫ₗ .ofEq _ _ (I.mul_inv.trans one_eq_range) ≪≫ₗ
+    .symm (.ofInjective _ (FaithfulSMul.algebraMap_injective R A))
+
+include S in
+theorem units_invertible : Module.Invertible R I := .left (tensorInvEquiv S I)
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: For dot notation to work... `Units.invertible`? `Units.moduleInvertible`? Not sure what it should be. (`_root_.`)

File: Mathlib/RingTheory/PicardGroup.lean [hunk 15]
```diff
@@ -0,0 +1,425 @@
...
+section CommRing
+
+open CommRing (Pic)
+
+variable (R A : Type*) [CommRing R] [CommRing A] [Algebra R A] [FaithfulSMul R A]
+  (S : Submonoid R) [IsLocalization S A]
+
+/-- The group homomorphism from the invertible submodules
+in a localization of `R` to the Picard group of `R`. -/
+noncomputable def unitsToPic : (Submodule R A)ˣ →* Pic R :=
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]: Could you add `@[simps!]` and check that the generated simp lemmas are correct?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 16]
```diff
@@ -0,0 +1,425 @@
...
+protected theorem congr (e : M ≃ₗ[R] N) : Module.Invertible R N :=
+  .right (e.symm.lTensor _ ≪≫ₗ linearEquiv R M)
+
+variable (R M N)
+
+instance : Module.Invertible R (Dual R M) := .left (linearEquiv R M)
+
+instance [Module.Invertible R N] : Module.Invertible R (M ⊗[R] N) :=
+  .right (M := Dual R M ⊗[R] Dual R N) <| tensorTensorTensorComm .. ≪≫ₗ
+    congr (linearEquiv R M) (linearEquiv R N) ≪≫ₗ TensorProduct.lid R R
```
Comment (erdOne) [inline Mathlib/RingTheory/PicardGroup.lean:169]: Is it true that if `M` is an invertible `A` module and `N` is an invertible `R` module, then `M ⊗[R] N` is an invertible `A` module?

**Review by kckennylau — COMMENTED** [review]
Thanks for the great work! 🎉

File: Mathlib/RingTheory/PicardGroup.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:169]: Yes, it's true. I'm adding it next to `instance : Module.Invertible A (A ⊗[R] M)`

File: Mathlib/RingTheory/PicardGroup.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:152]: Why should it be called `right`? This theorem states the left factor in `M ⊗[R] N ≃ₗ[R] R` is invertible.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: Nice golf!

File: Mathlib/RingTheory/PicardGroup.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: Not even need the `using` :)

File: Mathlib/RingTheory/PicardGroup.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:258]: `toModuleEnd` is currently only a `RingHom`. Maybe add it when a need comes up?

File: Mathlib/RingTheory/PicardGroup.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:328]: Sorry? What has this to do with functors?

File: Mathlib/RingTheory/PicardGroup.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: Are there performance concerns? It's more convenient to inherit instances rather than manually adding them.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: Maybe just call it `mk`

File: Mathlib/RingTheory/PicardGroup.lean (hunk 12 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: I think it's not inconvenient to rewrite by `free_iff_linearEquiv` so I'm not adding another iff statement, but I'll add the backward version with `Free`.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: I'd go with `Units.submodule_invertible`.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 15 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]:
```
adding projection Submodule.unitsToPic_apply:
      ∀ (R : Type u_3) (A : Type u_4) [inst : CommRing R] [inst_1 : CommRing A] [inst_2 : Algebra R A]
        [inst_3 : FaithfulSMul R A] (S : Submonoid R) [inst_4 : IsLocalization S A] (I : (Submodule R A)ˣ),
        (unitsToPic R A S) I = toPic R ↥↑I 
```

File: Mathlib/RingTheory/PicardGroup.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:467]: No longer necessary in Lean 4!

File: Mathlib/RingTheory/PicardGroup.lean (hunk 3 above)
Comment (kckennylau) [reply Mathlib/RingTheory/PicardGroup.lean:152]: Because I interpret the math statement as saying that `M` is invertible if it has a _right_ inverse 😆

File: Mathlib/RingTheory/PicardGroup.lean [hunk 17]
```diff
@@ -0,0 +1,435 @@
...
+- https://mathoverflow.net/questions/13768/what-is-the-right-definition-of-the-picard-group-of-a-commutative-ring
+- https://mathoverflow.net/questions/375725/picard-group-vs-class-group
+- [Weibel2013], https://sites.math.rutgers.edu/~weibel/Kbook/Kbook.I.pdf, Proposition 3.5.
+- [Stacks: Picard groups of rings](https://stacks.math.columbia.edu/tag/0AFW)
+
+## TODO
+
+Show:
+- The Picard group of a commutative domain is isomorphic to its ideal class group.
+- All commutative semi-local rings, in particular Artinian rings, has trivial Picard group.
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
- All commutative semi-local rings, in particular Artinian rings, have trivial Picard group.
```

File: Mathlib/RingTheory/PicardGroup.lean [hunk 18]
```diff
@@ -0,0 +1,435 @@
...
+- All unique factorization domains have trivial Picard group.
+
+- Establish other characterizations of invertible modules, e.g. they are modules that
+  becomes free of rank one when localized at every prime ideal.
```
Comment (kckennylau) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
  become free of rank one when localized at any prime ideal.
```

File: Mathlib/RingTheory/PicardGroup.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/PicardGroup.lean:328]: Sorry, that comment was wrong. But you are trying to prove a statement of the form `(?x : Skeleton ?C) = ?y` using an isomorphism of `?x` and `?y`, and upon further research, the "idiomatic" way to do this without explicit reference to `Quotient` would be `CategoryTheory.skeleton_skeletal _ \<(_ : the isomorphism)\>`.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/RingTheory/PicardGroup.lean]: They were leftover practices from my time with Lean3; I don't know how relevant they still are 🙃

**Comment by kckennylau** [comment]
LGTM! I would be very happy to be able to use `Pic` in Mathlib4!

File: Mathlib/RingTheory/PicardGroup.lean (hunk 18 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: "any" doesn't feel right to me. "at all prime ideals" is an alternative.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:328]: It doesn't seem to work; it's easier to construct an isomorphism between `Quotient.out`s from `f M = f N` because the coercion from Skeleton to a type involves choosing a representative using `Quotient.out`.

File: Mathlib/RingTheory/Finiteness/Cardinality.lean [hunk 19]
```diff
@@ -77,3 +78,20 @@ lemma not_finite_of_infinite_basis [Nontrivial R] {ι} [Infinite ι] (b : Basis
 end Module
 
 end ModuleAndAlgebra
+
+namespace Module.Finite
+
+universe u
+variable (R : Type u) (M : Type*) [Ring R] [AddCommGroup M] [Module R M] [Module.Finite R M]
+
+/-- The kernel of a surjective linear map from a finite free module to a given finite module. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Finiteness/Cardinality.lean]: The docstring seems inaccurate (the argument is the module, not the arbitrary surjective map).

File: Mathlib/RingTheory/PicardGroup.lean [hunk 20]
```diff
@@ -0,0 +1,505 @@
...
+noncomputable def linearEquiv [Module.Invertible R M] : Module.Dual R M ⊗[R] M ≃ₗ[R] R :=
+  .ofBijective _ Invertible.bijective
+
+variable {R M N}
+
+section LinearEquiv
+
+variable (e : M ⊗[R] N ≃ₗ[R] R)
+
+/-- Tensoring from the left by two mutually dual invertible modules does nothing. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
/-- The canonical isomorphism... -/
```

File: Mathlib/RingTheory/PicardGroup.lean [hunk 21]
```diff
@@ -0,0 +1,505 @@
...
+noncomputable abbrev leftCancelEquiv : M ⊗[R] (N ⊗[R] P) ≃ₗ[R] P :=
+  (TensorProduct.assoc R M N P).symm ≪≫ₗ e.rTensor P ≪≫ₗ TensorProduct.lid R P
+
+/-- Tensoring from the right by two mutually dual invertible modules does nothing. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean]: Same.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 22]
```diff
@@ -0,0 +1,505 @@
...
+@[simps!] noncomputable def rTensorEquiv : (P →ₗ[R] Q) ≃ₗ[R] (P ⊗[R] M →ₗ[R] Q ⊗[R] M) where
+  __ := LinearMap.rTensorHom M
+  invFun := rTensorInv P Q e
+  left_inv := rTensorInv_leftInverse P Q e
+  right_inv _ := rTensorInv_injective P Q e (by rw [LinearMap.toFun_eq_coe, rTensorInv_leftInverse])
+
+open LinearMap in
+/-- If there is an `R`-isomorphism between `M ⊗[R] N` and `R`, where `M` is not assumed to be
+the dual of `N`, we show the induced map `M → Nᵛ` is in fact an isomorphism, so `M` is
+isomorphic to the dual of `N` after all. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
/-- If there is an `R`-isomorphism between `M ⊗[R] N` and `R`, the induced map `M → Nᵛ` is an isomorphism. -/
```
It seems better to me.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 23]
```diff
@@ -0,0 +1,505 @@
...
+  let aux := finsuppRight R M N S ≪≫ₗ Finsupp.mapRange.linearEquiv e
+  let f' : (S →₀ R) →ₗ[R] M := TensorProduct.rid R M ∘ₗ f.lTensor M ∘ₗ aux.symm
+  let g' : M →ₗ[R] S →₀ R := aux ∘ₗ g.lTensor M ∘ₗ (TensorProduct.rid R M).symm
+  have : Function.Surjective f' := by simpa [f'] using LinearMap.lTensor_surjective _ this
+  refine ⟨.of_surjective f' this, .of_split g' f' <| LinearMap.ext fun m ↦ ?_⟩
+  simp [f', g', show f (g 1) = 1 from DFunLike.congr_fun hg 1]
+
+instance : Module.Finite R M := (finite_projective R M).1
+instance : Projective R M := (finite_projective R M).2
+example : IsReflexive R M := inferInstance
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean:193]: Do we need this example?

File: Mathlib/RingTheory/PicardGroup.lean [hunk 24]
```diff
@@ -0,0 +1,505 @@
...
+  nontriviality R
+  have := card_eq_of_linearEquiv R <|
+    (finsuppTensorFinsupp' .. ≪≫ₗ linearEquivFunOnFinite R R _).symm ≪≫ₗ TensorProduct.congr
+      (linearEquivFunOnFinite R R _ ≪≫ₗ llift R R R _ ≪≫ₗ (Free.repr R M).dualMap)
+      (Free.repr R M).symm ≪≫ₗ linearEquiv R M ≪≫ₗ (.symm <| .funUnique Unit R R)
+  have : Unique (Free.ChooseBasisIndex R M) :=
+    (Fintype.card_eq_one_iff_nonempty_unique.mp (by simpa using this)).some
+  exact ⟨Free.repr R M ≪≫ₗ LinearEquiv.finsuppUnique R R _⟩
+
+theorem finrank_eq_one [StrongRankCondition R] [Free R M] : finrank R M = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean:249]: Can you add this to the list of the main results? And maybe also a docstring.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 25]
```diff
@@ -0,0 +1,505 @@
...
+  left {r₁ r₂} eq := smul_left_injective' (α := M) <| funext fun m ↦ by
+    obtain ⟨r, rfl⟩ := hf m
+    simp_rw [← map_smul, smul_eq_mul, mul_comm _ r, ← smul_eq_mul, map_smul, eq]
+  right := hf
+
+variable {R M N} in
+/- Not true if `surjective` is replaced by `injective`: any nonzero element in an invertible
+module over a domain generates a submodule isomorphic to the domain, which is not the whole
+module unless the module is free. -/
+theorem bijective_of_surjective [Module.Invertible R N] (f : M →ₗ[R] N)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
theorem bijective_of_surjective [Module.Invertible R N] {f : M →ₗ[R] N}
```
If you want.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 26]
```diff
@@ -0,0 +1,505 @@
...
+
+end Invertible
+
+end Module
+
+section PicardGroup
+
+open CategoryTheory Module
+
+variable (R : Type u) [CommRing R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PicardGroup.lean:319]: Isn't `R` already in scope?

**Review by riccardobrasca — APPROVED** [review]
This can probably be improved a bit, but I think it's easier to have it and work on lit later, thanks!

bors d+

File: Mathlib/RingTheory/Finiteness/Cardinality.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Finiteness/Cardinality.lean]: But I did say "a given finite module" in the docstring, which IMO makes clear that the module is the argument. Is
```
Given a finite module, this is the kernel of a surjective linear map from a finite free module to it.
```
better?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Finiteness/Cardinality.lean]: Maybe say something like "a random surjective..." to make it clear that it's arbitrary.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 26 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:319]: Nope, everything above is enclosed in the Module namespace ... (and applies to CommSemiring)

File: Mathlib/RingTheory/PicardGroup.lean (hunk 23 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:193]: It's saying Mᵛᵛ ≃ M (in this case, that `⁻¹` is involutive in the Picard group) so I think it's nice to have. Would you mind if I keep it?

File: Mathlib/RingTheory/PicardGroup.lean (hunk 24 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean:249]: I added a docstring for `free_iff_linearEquiv` and mention it in the module docstring because it's the more mathematically interesting result; I added a TODO item to this theorem to indicate that it's further generalizable.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 27]
```diff
@@ -0,0 +1,514 @@
...
+      (linearEquivFunOnFinite R R _ ≪≫ₗ llift R R R _ ≪≫ₗ (Free.repr R M).dualMap)
+      (Free.repr R M).symm ≪≫ₗ linearEquiv R M ≪≫ₗ (.symm <| .funUnique Unit R R)
+  have : Unique (Free.ChooseBasisIndex R M) :=
+    (Fintype.card_eq_one_iff_nonempty_unique.mp (by simpa using this)).some
+  exact ⟨Free.repr R M ≪≫ₗ LinearEquiv.finsuppUnique R R _⟩
+
+/- TODO: generalize ≤ to arbitrary invertible modules over any commutative semiring by considering
+the localization at a prime, once we show inverible modules over local semirings are free.
+It is not clear whether ≥ holds in general but it holds for domains. -/
+theorem finrank_eq_one [StrongRankCondition R] [Free R M] : finrank R M = 1 := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/PicardGroup.lean]: If we define the rank of a module to be the maximum or minimum of local ranks, then every invertible module (not necessarily free) has rank 1. But in mathlib ranks are defined in terms of size of linearly independent sets, and I'm not sure whether one of the directions holds in full generality (my AIs fail to give a counterexample so far).

File: Mathlib/RingTheory/PicardGroup.lean (hunk 23 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PicardGroup.lean:193]: OK, no problem.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 27 above)
Comment (alreadydone) [reply Mathlib/RingTheory/PicardGroup.lean]: The TODO comment isn't completely substantiated as I don't know whether local comm. semirings satisfy the strong rank condition, so the wording has been [changed](https://github.com/leanprover-community/mathlib4/pull/25337/commits/9e2b429d93bec762641b97b1459f5013c6dacf6f). If there's no further comments I'll merge in one day.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 28]
```diff
@@ -0,0 +1,515 @@
...
+      (linearEquivFunOnFinite R R _ ≪≫ₗ llift R R R _ ≪≫ₗ (Free.repr R M).dualMap)
+      (Free.repr R M).symm ≪≫ₗ linearEquiv R M ≪≫ₗ (.symm <| .funUnique Unit R R)
+  have : Unique (Free.ChooseBasisIndex R M) :=
+    (Fintype.card_eq_one_iff_nonempty_unique.mp (by simpa using this)).some
+  exact ⟨Free.repr R M ≪≫ₗ LinearEquiv.finsuppUnique R R _⟩
+
+/- TODO: The ≤ direction holds for arbitrary invertible modules over any commutative **ring** by
+considering the localization at a prime (which is free of rank 1) using the strong rank condition.
+The ≥ direction fails in general but holds for domains and Noetherian rings,
+see https://math.stackexchange.com/q/5089900. -/
```
Comment (alreadydone) [inline Mathlib/RingTheory/PicardGroup.lean]:
```suggestion
The ≥ direction fails in general but holds for domains and Noetherian rings without embedded
components, see https://math.stackexchange.com/q/5089900. -/
```

**Comment by alreadydone** [comment]
Thanks 🎉 
bors r+
